US07855216B2
Step 1: 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide
A mixture of ethyl 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (100 mg, 0.23 mmol), 1N aqueous sodium hydroxide (0.25 ml) and MeOH (3.0 ml) was heated at 65° C. for 1.5 hours. The reaction mixture was concentrated and azeotroped with toluene (2×2 ml) to give a solid residue. The solid residue was dissolved in anhydrous THF (4 ml) and O-(2-vinyloxy-ethyl)-hydroxylamine (47 mg, 0.46 mmol), EDCI (55 mg, 0.29 mmol), HOBt (43 mg, 0.32 mmol) and DIPEA (119 μl, 0.68 mmol) were added. After stirring for 72 hours at ambient temperature, the mixture was evaporated and the residue was partitioned between ethyl acetate (30 ml) and water (20 ml). The organic layer was isolated, dried over sodium sulphate, then filtered and evaporated to give a yellow oil. The oil was purified by flash chromatography (Si-PPC, dichloromethane:methanol, gradient 100:0 to 90:10) to afford the title compound as a yellow solid (64 mg, 57%). LCMS (method B): RT=2.20 min, M+H+=497.

reactant | ethyl 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.23 mmol, 100 mg | C(C)OC(=O)C1=C(C=2C(=NC=CC2N1C)CC)NC1=C(C=C(C=C1)I)F | C19H19FIN3O2
reactant | sodium hydroxide | 1N, 0.25 ml | [OH-].[Na+]
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.46 mmol, 47 mg | C(=C)OCCON | C4H9NO2
reactant | EDCI | 0.29 mmol, 55 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.32 mmol, 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.68 mmol, 119 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3.0 ml | CO | CH4O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 64 mg, 57% | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F | C19H18FIN4O3
